US06747147B2
Step (2): Preparation of 4-[6-(3-morpholin-4-yl-prop-1-ynyl)-4-oxo-4H-quinazolin-3-ylmethyl]-benzoic acid tert-butyl ester
To a solution of 300 mg (0.648 mmol) of 4-(6-iodo-4-oxo-4H-quinazolin-3-ylmethyl)-benzoic acid tert-butyl ester (preparation described above) in 50 mL of dimethylformamide (“DMF”), was added diisopropylamine (4 mol eq.), a catalytic amount of CuI, 4-prop-2-ynyl-morpholine (4 mol eq.), and Pd(PPh3)2Cl2 (a catalytic amount). The reaction mixture was then heated to 50° C. for 15 hours. The reaction was then diluted with 200 mL of EtOAc, and washed with 2×200 mL water, and 1×200 mL brine. The organic layer was dried over MgSO4 and concentrated. The residue was then passed through a silica gel column, elution with 4:1 EtOAc:tetrahydrofuran (“THF”). The product is carried directly to the next step.

reactant | 4-(6-iodo-4-oxo-4H-quinazolin-3-ylmethyl)-benzoic acid tert-butyl ester | 0.648 mmol, 300 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C=NC2=CC=C(C=C2C1=O)I)=O | C20H19IN2O3
reactant | diisopropylamine | 4 mol | C(C)(C)NC(C)C | C6H15N
reactant | 4-prop-2-ynyl-morpholine | 4 mol | C(C#C)N1CCOCC1 | C7H11NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | [Cu]I
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[6-(3-morpholin-4-yl-prop-1-ynyl)-4-oxo-4H-quinazolin-3-ylmethyl]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C=NC2=CC=C(C=C2C1=O)C#CCN1CCOCC1)=O | C27H29N3O4
